US06251926B1
Sodium hydride (60% in oil, 629 mg) was added to a solution of tert-butyl 3-(2-furyl)-3-oxopropionate (3.01 g) in tetrahydrofuran (80 ml) at 0° C. and stirred for 10 minutes. Ethyl bromoacetate (1.51 ml) was added to the mixture, and then the resultant was stirred at room temperature for 4 hours, 0.1N hydrochloric acid (200 ml) was added and extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous saturated solution of sodium chloride, dried (MgSO4) and concentrated. The residue was subjected to silica gel chromatography to obtain an oil from and ethyl acetate-hexane (1:5, v/v)-eluted fraction. This was dissolved in toluene (150 ml), and trifluoroacetic acid (2.64 ml) was added, and then the reaction mixture was stirred at 90° C. for 6 hours. An aqueous saturated solution of sodium bicarbonate was added to the reaction mixture and extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous saturated solution of sodium chloride, dried (MgSO4) and concentrated. The residue was subjected to silica gel chromatography to obtain ethyl 4-(2-furyl)-4-oxobutyrate (2.22 g, yield 79%) as a colorless oil from an ethyl acetate-hexane (1:3, v/v)-eluted fraction.

reactant | Sodium hydride | 629 mg | [H-].[Na+]
reactant | tert-butyl 3-(2-furyl)-3-oxopropionate | 3.01 g | O1C(=CC=C1)C(CC(=O)OC(C)(C)C)=O | C11H14O4
reactant | Ethyl bromoacetate | 1.51 ml | BrCC(=O)OCC | C4H7BrO2
reactant | hydrochloric acid | 0.1N, 200 ml | Cl | ClH
reactant | trifluoroacetic acid | 2.64 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | ethyl 4-(2-furyl)-4-oxobutyrate | 2.22 g, yield 79% | O1C(=CC=C1)C(CCC(=O)OCC)=O | C10H12O4
